US07250418B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(4-methoxypyrimidin-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine and 2-chloro-4-methoxypyrimidine provided the title compound as an amporphous solid: 1H NMR (400 MHz, CDCl3) δ) 8.03, 7.25, 7.02, 6.90, 6.02, 5.25, 4.88, 4.22, 3.92–3.78, 3.55, 2.74, 2.50, 1.33–1.26, 1.16; IR (diffuse reflectance) 2972, 2475 (w), 2350 (w), 2310 (w), 2183 (w), 2069 (w), 1585 (s), 1568 (s), 1516 (s), 1482 (s), 1466 (s), 1397, 1393, 1292, 1231 cm−1 HRMS (ESI) calcd for C26H33N6O3Cl+H1 513.2380. found 513.2356.

reactant | 5-(2,4-dichlorophenyl)-N-[(3R,4S)-4-ethoxy-1-(1,3-thiazol-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C=1SC=CN1)CC | C23H27Cl2N5OS
reactant | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C21H29ClN4O2
reactant | 2-chloro-4-methoxypyrimidine | ClC1=NC=CC(=N1)OC | C5H5ClN2O
product | 5-(2-chloro-4-methoxyphenyl)-N-[(3R,4S)-4-ethoxy-1-(4-methoxypyrimidin-2-yl)pyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C1=NC=CC(=N1)OC)CC | C26H33ClN6O3
